USRE039591E1
Step 236a. N-(2-naphthyl)methoxyphthalimide
2-(hydroxymethyl)napthalene (1.00 g, 6.33 mmol), triphenyl phosphine (1.73 g, 6.60 mmol, 1.04 equiv) and N-hydroxyphthalimide (1.08 g, 6.63 mmol, 1.05 equiv) were dissolved in 25 mL of dry THF. Diethylazodicarboxylate (1.09 mL, 6.93 mmol, 1.09 equiv) was then added dropwise and the reaction was stirred overnight. The reaction mixture was placed in a freezer for 2 h and then filtered, rinsing with Et2O, to give the proudct (1.38 g) as a white solid. MS(CI) m/e 321 (M+NH4)+.

reactant | 2-(hydroxymethyl)napthalene | 6.33 mmol, 1.00 g | OCC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | triphenyl phosphine | 6.60 mmol, 1.73 g, 1.04 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 6.63 mmol, 1.08 g, 1.05 equiv | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Diethylazodicarboxylate | 6.93 mmol, 1.09 mL, 1.09 equiv | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(2-naphthyl)methoxyphthalimide | C1=C(C=CC2=CC=CC=C12)CON1C(C=2C(C1=O)=CC=CC2)=O | C19H13NO3
